US07414045B2
A mixture of methyl 3-(benzoyloxy)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate, N-bromo-succinimide (1.2 eq.) and dibenzoylperoxide (70%, 0.13 eq.) in carbon tetrachloride was stirred under reflux for one hour. The mixture was cooled to room temperature, the succinimide was filtered off and the solvent was removed under reduced pressure. Methyl 3-(benzoyloxy)-9-bromo-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate was obtained after flash chromatography (eluent petroleum ether/ethyl acetate, 1:1) as a pale yellow oil.

reactant | methyl 3-(benzoyloxy)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C2N(C1=O)CCCC2)C(=O)OC | C17H16N2O5
reactant | N-bromo-succinimide | 1.2 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 0.13 eq. | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 3-(benzoyloxy)-9-bromo-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C2N(C1=O)CCCC2Br)C(=O)OC | C17H15BrN2O5
